US07678801B2
150b) 4-chloro-2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)pyrido[2,3-d]pyrimidin-7(8H)-one
To the compound 4-chloro-8-(2,6-difluorophenyl)-2-(methylsulfinyl)-pyrido[2,3-d]pyrimidin-7(8H)-one (1.59 g, 4.47 mmol) in dichloromethane (89.4 mL) were added N,N-diethyl-1,3-propanediamine (0.845 mL, 5.36 mol) and triethylamine (1.26 uL, 8.94 mmol). The mixture was stirred at rt overnight. Some white precipitate was formed during the reaction. Filtration followed by wash with ethyl acetate/dichoromethane/methnol afforded the title compound (1.028 g, 60%).

reactant | 4-chloro-8-(2,6-difluorophenyl)-2-(methylsulfinyl)-pyrido[2,3-d]pyrimidin-7(8H)-one | 4.47 mmol, 1.59 g | ClC=1C2=C(N=C(N1)S(=O)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3O2S
reactant | N,N-diethyl-1,3-propanediamine | 5.36 mol, 0.845 mL | C(C)N(CCCN)CC | C7H18N2
reactant | triethylamine | 8.94 mmol, 1.26 uL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 89.4 mL | ClCCl | CH2Cl2
product | 4-chloro-2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 1.028 g, 60% | ClC=1C2=C(N=C(N1)NCCCN(CC)CC)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C20H22ClF2N5O
